US05807886
To 6-nitro-1-(phenylmethyl)aminoindane hydrochloride (1.34 g, 4.40 mmol) in MeOH (100 ml) was added a catalytic amount of 10% Pd/C. The mixture was hydrogenated at 50 psi for 1 hr, filtered through celite, and concentrated to give 6-amino-1-(phenylmethyl)aminoindane hydrochloride which was homogeneous by TLC and used immediately in the next step.

reactant | 6-nitro-1-(phenylmethyl)aminoindane hydrochloride | 4.40 mmol, 1.34 g | Cl.[N+](=O)([O-])C1=CC=C2CCC(C2=C1)NCC1=CC=CC=C1
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-amino-1-(phenylmethyl)aminoindane hydrochloride | Cl.NC1=CC=C2CCC(C2=C1)NCC1=CC=CC=C1 | InChI=1S/C16H18N2.ClH/c17-14-8-6-13-7-9-16(15(13)10-14)18-11-12-4-2-1-3-5-12;/h1-6,8,10,16,18H,7,9,11,17H2;1H
